data/mechanism_extracts/ChemElectroChem/10.1002_celc.201900172.json
{"doi": "10.1002_celc.201900172", "journal": "ChemElectroChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative 1,2-migration of α,α-disubstituted allyl alcohols to α-exo-methylene ketones using calcium or magnesium halide salts as halogen mediators", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of halide (Cl- or Br-) from CaX2/MgX2 generates an electrophilic halogen species (X+) that activates the allyl alcohol; cathode reduces MeOH to H2 and methoxide", "key_intermediates": [{"name": "electrophilic halogen species (X+) generated at anode from halide mediator", "smiles": null, "role": "reactive"}, {"name": "halonium ion / halogenated alkoxide adduct of allyl alcohol (X added across C=C with adjacent O-H)", "smiles": null, "role": "transient"}, {"name": "α-halo ketone (after 1,2-migration and loss of H+)", "smiles": null, "role": "reactive"}, {"name": "α-exo-methylene ketone (final product after base-mediated dehydrohalogenation)", "smiles": null, "role": "reactive"}], "electron_flow": "Halide (from CaX2 or MgX2) is oxidized at the anode to an electrophilic X+ species, which adds to the allyl alcohol alkene; 1,2-migration with loss of H+ delivers an α-halo ketone; cathodic reduction of MeOH produces methoxide which (or added base) effects dehydrohalogenation to the α-exo-methylene ketone.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism is proposed in Scheme 1 without direct mechanistic probes shown on these pages; halide-mediator role inferred from screening of supporting electrolytes (Et4NBF4 inactive; chloride/bromide salts active). Calcium and magnesium halides outperform alkali metal chlorides, and mixed MeOH/MeCN solvent suppresses electrode fouling from insoluble Ca species."}
